US05159065
reacting 3-acetoxy-2-nitropentane with ethyl isocyanoacetate in the presence of a nonnucleophilic base to form ethyl 3-ethyl-4-methylpyrrole-2-carboxylate;

reactant | 3-acetoxy-2-nitropentane | C(C)(=O)OC(C(C)[N+](=O)[O-])CC | C7H13NO4
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
product | ethyl 3-ethyl-4-methylpyrrole-2-carboxylate | C(C)C1=C(NC=C1C)C(=O)OCC | C10H15NO2
